US05760233
PREPARATION OF EXAMPLE 7: 2-phenyl-5-thiazole-propanal
A solution of ethyl formyl β chloracetate in 240 ml of benzene was added to a suspension of 78 g of thiobenzamide in 200 ml of benzene and the mixture was refluxed for 3 hours 30 minutes while eliminating the water formed. The reaction medium was cooled and 320 ml of a 20% solution of potassium carbonate and 220 ml of water were added slowly. Extraction was carried out with ether, followed by washing, drying and distillation under reduced pressure to obtain 75.5 g of the desired product.

reactant | thiobenzamide | 78 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | 220 ml | O | H2O
solvent | benzene | 240 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-phenyl-5-thiazole-propanal | 75.5 g | C1(=CC=CC=C1)C=1SC(=CN1)CCC=O | C12H11NOS
